US08748626B2
To a solution of 2,5-dihydro-1H-pyrrole (30 g, 434 mmol) in dioxane (0.43 M solution) was added CbzOSu (130 g, 521 mmol). After being stirred at room temperature for 18 h, the reaction mixture was concentrated to around 300 mL, diluted with 1000 mL of EtOAc. The organic layer was washed with water and brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The desired benzyl 2,5-dihydro-1H-pyrrole-1-carboxylate was obtained in 91% yield (80.0 g) as a colorless oil by flash column chromatography. 1H NMR (CDCl3, 400 MHz): δ 7.32 (5H, m), 5.80 (2H, m), 5.77 (2H, s), 4.22 (4H, m). LC/MS (uplc): MH+ 204.2, 160.1 (−44), 0.86 min.

reactant | 2,5-dihydro-1H-pyrrole | 434 mmol, 30 g | N1CC=CC1 | C4H7N
reactant | CbzOSu | 521 mmol, 130 g | C(=O)(OCC1=CC=CC=C1)ON1C(=O)CCC1=O | C12H11NO5
solvent | dioxane | 0.43 M | O1CCOCC1 | C4H8O2
product | benzyl 2,5-dihydro-1H-pyrrole-1-carboxylate | 91% yield | N1(CC=CC1)C(=O)OCC1=CC=CC=C1 | C12H13NO2
